US04021479
4-(5'-Chloro-2'-methyl-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to Example 25 from 4-(5'-chloro-2'-methyl-4-biphenylyl)-4-oxo-butyric acid. Yield: 90% of theory. Melting point of the cyclohexylamine salt: 114°-115° C. (from ethyl acetate).

reactant | 4-(5'-chloro-2'-methyl-4-biphenylyl)-4-oxo-butyric acid | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)C(CCC(=O)O)=O)C | C17H15ClO3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(5'-Chloro-2'-methyl-4-biphenylyl)-4-hydroxy-butyric acid | Yield: 90% | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)C(CCC(=O)O)O)C | C17H17ClO3
